US09238712B2
3-(Chloromethyl)-2H-chromen-2-one (19.461 g, 100 mmol) is dissolved into 100 mL of anhydrous THF in a three neck flask equipped with a condenser, stir bar, and argon inlet. To the mixture is added 27.6 g (200 mmol) of anhydrous potassium carbonate and 2.0 g of 18-crown-6. 4-Hydroxy-2-butanone (16.2 g, 200 mmol) is added and the system is refluxed for 16 hours, cooled to room temperature, filtered, and the organic solvents are removed by rotary evaporation. The solid organic residue is purified by column chromatography using 3:1 ethyl acetate:hexanes to yield 3-(3-oxo-butoxymethyl)-chromen-2-one.

reactant | 3-(Chloromethyl)-2H-chromen-2-one | 100 mmol, 19.461 g | ClCC=1C(OC2=CC=CC=C2C1)=O | C10H7ClO2
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 2.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 4-Hydroxy-2-butanone | 200 mmol, 16.2 g | OCCC(C)=O | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(3-oxo-butoxymethyl)-chromen-2-one | O=C(CCOCC=1C(OC2=CC=CC=C2C1)=O)C | C14H14O4
